US05374606
A solution of cyclopropyl methyl ketone (1.1 g) and methyl 4-bromo-2-(methylsulphenylmethyl)benzoate (3.6 g) in tetrahydrofuran was added to a refluxing suspension of sodium hydride (80%, 0.9 g) in tetrahydrofuran. After the addition was complete, the mixture was maintained at reflux temperature for 30 minutes. It was then cooled and poured onto 100 g of ice and 50 ml of saturated aqueous sodium bicarbonate. The mixture was extracted with hexane, the organic solution dried (anhydrous sodium sulphate) and the solvent evaporated to give 1-[4-bromo-2-(methylsulphenylmethyl)phenyl]-3-cyclopropylpropan-1,3-dione as an orange oil (2.23 g), NMR (CDCl3): 1.00 (2H,m), 1.20 (2H,m), 1.75 (1H,m), 2.03 (3H,s), 3.92 (2H,s), 6.00 (1H,s), 7.35 (1H,m), 7.45 (1H,m), 7.58 (1H,m) 14.74 (1H,s).

reactant | cyclopropyl methyl ketone | 1.1 g | CC(=O)C1CC1 | C5H8O
reactant | methyl 4-bromo-2-(methylsulphenylmethyl)benzoate | 3.6 g | BrC1=CC(=C(C(=O)OC)C=C1)CSC | C10H11BrO2S
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[4-bromo-2-(methylsulphenylmethyl)phenyl]-3-cyclopropylpropan-1,3-dione | 2.23 g | BrC1=CC(=C(C=C1)C(CC(=O)C1CC1)=O)CSC | C14H15BrO2S
